US07652036B2
Ethyl 3-(3-oxo-3,4-dihydro-2-quinoxalinyl)propanoate (12)
The title compound was prepared from 1,2-phenylenediamine and diethyl 2-oxopentanedioate using methods as described in the literature for similar compounds (Weygand et al., 1962) in 72% yield.

reactant | 1,2-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | diethyl 2-oxopentanedioate | O=C(C(=O)OCC)CCC(=O)OCC | C9H14O5
product | Ethyl 3-(3-oxo-3,4-dihydro-2-quinoxalinyl)propanoate | 72% yield | O=C1C(=NC2=CC=CC=C2N1)CCC(=O)OCC | C13H14N2O3
